US07576089B2
To a solution of 1,4-diiodobenzene (16.5 g, 50 mmol) in THF (350 mL) at −78° C. was added n-BuLi (2.5 M, 24 mL) over 1 hour. After being stirred additional 30 minutes, a solution of 1,4-dioxa-spiro[4.5]decan-8-one (7.8 g, 50 mmol) in THF (30 mL) was added in and the resulting mixture was stirred for 3 hours. To the mixture was added TMSCl (5.4 g, 50 mmol) and the resulting mixture was allowed to warm to room temperature and stirred at room temperature for 18 hours. The reaction mixture was neutralized to pH 6.0, and extracted with ethyl acetate (3×50 mL). The organic extracts were combined, washed with saline solution (2×50 mL), dried over sodium sulfate, and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with hexane/ethyl acetate (95/5 to 100/0). The appropriate fractions were combined to give 8-(4-Iodo-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol (12 g, 66.6%) with LCMS: 361.2 (M+H+, 100%) and {[8-(4-iodophenyl)-1,4-dioxaspiro[4.5]dec-8-yl]oxy}(trimethyl)silane (6 g, 27%) with LCMS: 433.1 (M+H+, 100%).

reactant | 1,4-diiodobenzene | 50 mmol, 16.5 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | n-BuLi | 2.5 M, 24 mL | [Li]CCCC
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 50 mmol, 7.8 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | TMSCl | 50 mmol, 5.4 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 8-(4-Iodo-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol | 12 g, 66.6% | IC1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C14H17IO3
